US08431563B2
A 100 ml, pressure vessel was charged with 4,4,5,5-tetramethyl-2-(4-(phenylsulfonyl)phenyl)-1,3,2-dioxaborolane (1.00 g, 2.91 mmol), 2,5-dibromopyridine (0.860 g, 3.63 mmol, Sigma-Aldrich, St. Louis, Mo.), potassium carbonate (1.20 g, 8.72 mmol), tetrakis(triphenylphosphine)palladium (0) (0.168 g, 0.145 mmol, Strem Chemical Inc, Newburyport, Mass.), 16 mL of 1,2-dimethoxyethane, and 4 mL of water. The vessel was sealed and the reaction was heated at 100° C. for 2 h. After cooling to room temperature, the mixture was diluted with EtOAc (30 mL), separated, dried (MgSO4) and concentrated to give an oil. Purification via column chromatography (40 g of silica gel, 0 to 50% EtOAc in hexanes) produced a yellow solid that was slurried with cold (0° C.) MeOH (20 mL) to give 5-bromo-2-(4-(phenylsulfonyl)phenyl)pyridine (0.450 g).

reactant | 4,4,5,5-tetramethyl-2-(4-(phenylsulfonyl)phenyl)-1,3,2-dioxaborolane | 2.91 mmol, 1.00 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)C | C18H21BO4S
reactant | 2,5-dibromopyridine | 3.63 mmol, 0.860 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | potassium carbonate | 8.72 mmol, 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 16 mL | COCCOC | C4H10O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.145 mmol, 0.168 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | 5-bromo-2-(4-(phenylsulfonyl)phenyl)pyridine | 0.450 g | BrC=1C=CC(=NC1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C17H12BrNO2S
